US04032523
B-15. Diethyl N-[2-(2-pyridinyl)-4-pyrimidinyl]aminomethylenemalonate
A mixture containing 8.7 g. of 4-amino-2-(2-pyridinyl)pyrimidine and 14.2 g. of diethyl ethoxymethylenemalonate was heated in an oil bath at 130°-140° C. for one hour and then cooled to room temperature. To the cooled reaction mixture was added with stirring 300 ml. of ether and the mixture was filtered. To the filtrate was added 4.8 g. of methanesulfonic acid dissolved in 25 ml. of ethanol whereupon there separated an oily material which became a crystalline solid on standing. The solid was collected and recrystallized from ether-ethanol to yield 10.4 g. of diethyl N-[2-(2-pyridinyl)-4-pyrimidinyl]aminomethylenemalonate methanesulfonate, m.p. 162°-164° C.

reactant | 4-amino-2-(2-pyridinyl)pyrimidine | NC1=NC(=NC=C1)C1=NC=CC=C1 | C9H8N4
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diethyl N-[2-(2-pyridinyl)-4-pyrimidinyl]aminomethylenemalonate methanesulfonate | CS(=O)(=O)O.N1=C(C=CC=C1)C1=NC=CC(=N1)NC=C(C(=O)OCC)C(=O)OCC
product | Diethyl N-[2-(2-pyridinyl)-4-pyrimidinyl]aminomethylenemalonate | N1=C(C=CC=C1)C1=NC=CC(=N1)NC=C(C(=O)OCC)C(=O)OCC | C17H18N4O4
